US05563160
N-(5-bromo-3-pyridyl)-N'-cyano-N"-(2-phenylthioethyl)guanidine
S-Methyl N-(5-bromo-3-pyridyl)-N'-cyanoisothiourea (650 mg) and 2-phenylthioethylamine (740 mg) in pyridine (0.5 ml) were heated to 50° C. for 5 hours. To the resulting clear solution was added ether (10 ml), and the desired pure compound was collected by filtration and washed with ether.

reactant | S-Methyl N-(5-bromo-3-pyridyl)-N'-cyanoisothiourea | 650 mg | CSC(NC=1C=NC=C(C1)Br)=NC#N | C8H7BrN4S
reactant | 2-phenylthioethylamine | 740 mg | C1(=CC=CC=C1)SCCN | C8H11NS
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-bromo-3-pyridyl)-N'-cyano-N"-(2-phenylthioethyl)guanidine | BrC=1C=C(C=NC1)NC(=NCCSC1=CC=CC=C1)NC#N | C15H14BrN5S
